* D:\programacion\Python\proyectoFiltroPasaBanda\Ecualizador.asc
V1 VCC 0 15
V2 VEE 0 -15
R1 -32 Vin1 100k
R4 Vsuma -32 100k
C1 N001 Vsuma 100n
C2 +1 N001 100n
R5 +1 0 680k
R6 -1 N001 56k
R7 N005 -1 27k
R8 +2 N005 27k
C3 +2 0 100n
C4 -2 N005 200n
R9 -1 N001 560k
R10 +1 0 120k
R11 +2 N005 430k
R12 N005 -1 430k
C5 N008 Vsuma 100n
C6 +4 N008 100n
R13 +4 0 560k
R14 -4 N008 430k
R15 N012 -4 15k
R16 +5 N012 15k
C7 +5 0 100n
C8 -5 N012 200n
R17 -4 N008 27k
R18 +4 0 56k
R19 N012 -4 82k
R20 +5 N012 82k
C9 N018 Vsuma 100n
C10 +7 N018 100n
R21 +7 0 430k
R22 -7 N018 18k
R23 N021 -7 430k
R24 +8 N021 430k
C11 +8 0 10n
C12 -8 N021 20n
R25 -7 N018 43k
R26 +7 0 27k
R27 N021 -7 75k
R28 +8 N021 75k
C13 N002 Vsuma 10n
C14 +10 N002 10n
R29 +10 0 430k
R30 -10 N002 430k
R31 N006 -10 910k
R32 +11 N006 910k
C15 +11 0 10n
C16 -11 N006 20n
R33 -10 N002 75k
R34 +10 0 180k
R35 N006 -10 33k
R36 +11 N006 33k
C17 N009 Vsuma 10n
C18 +13 N009 10n
R37 +13 0 430k
R38 -13 N009 36k
R39 N013 -13 39k
R40 +14 N013 39k
C19 +14 0 10n
C20 -14 N013 20n
R41 -13 N009 270k
R42 +13 0 75k
R43 N013 -13 27k
R44 +14 N013 27k
C21 N019 Vsuma 10n
C22 +16 N019 10n
R45 +16 0 270k
R46 -16 N019 18k
R47 N024 -16 270k
R48 +17 N024 270k
C23 +17 0 10n
C24 -17 N024 20n
R49 -16 N019 150k
R50 +16 0 36k
R51 N024 -16 8.2k
R52 +17 N024 8.2k
C25 N003 Vsuma 10n
C26 +19 N003 10n
R53 +19 0 150k
R54 -19 N003 8.2k
R55 N007 -19 510k
R56 +20 N007 510k
C27 +20 0 1n
C28 -20 N007 2n
R57 -19 N003 270k
R58 +19 0 18k
R59 N007 -19 43k
R60 +20 N007 43k
C29 N010 Vsuma 1n
C30 +22 N010 1n
R61 +22 0 390k
R62 -22 N010 43k
R63 N014 -22 20k
R64 +23 N014 20k
C31 +23 0 1n
C32 -23 N014 2n
R65 -22 N010 510k
R66 +22 0 100k
C33 N022 Vsuma 1n
C34 +25 N022 1n
R67 +25 0 43k
R68 -25 N022 20k
R69 N023 -25 10k
R70 +26 N023 10k
C35 +26 0 1n
C36 -26 N023 2n
R71 +25 0 530k
C37 N025 Vsuma 1n
C38 +28 N025 1n
R72 +28 0 20k
R73 -28 N025 10k
R74 N026 -28 5k
R75 +29 N026 5k
C39 +29 0 1n
C40 -29 N026 2n
R76 Vbanda1 -3 100k
R77 -3 -2 10k
R78 Vbanda2 -6 100k
R79 -6 -5 10k
R80 Vbanda3 -9 50k
R81 -9 -8 10k
R82 N004 -12 1k
R83 -12 -11 10k
R84 N011 -15 1k
R85 -15 -14 10k
R86 Vbanda6 -18 1k
R87 -18 -17 10k
R89 -21 -20 10k
R90 Vbanda8 -24 1k
R91 -24 -23 10k
R92 Vbanda9 -27 1k
R93 -27 -26 10k
R94 Vbanda10 -30 1k
R95 -30 -29 10k
R2 -32 N017 100k
B1 N017 0 V=V(Vin2)
D1 N016 0 MyDiode
D2 0 N016 MyDiode
C41 N015 Vin2 1µ
R3 N016 N015 10k
C42 Vin2d N016 1µ
B2 -1 0 V= 1Meg*(V(+1)-V(-1))
B3 -2 0 V= 1Meg*(V(+2)-V(-2))
B4 Vbanda1 0 V= 1Meg*(V(0)-V(-3))
B5 -4 0 V= 1Meg*(V(+4)-V(-4))
B6 -5 0 V= 1Meg*(V(+5)-V(-5))
B7 Vbanda2 0 V= 1Meg*(V(0)-V(-6))
B8 -7 0 V= 1Meg*(V(+7)-V(-7))
B9 -8 0 V= 1Meg*(V(+8)-V(-8))
B10 Vbanda3 0 V= 1Meg*(V(0)-V(-9))
B11 -10 0 V= 1Meg*(V(+10)-V(-10))
B12 -11 0 V= 1Meg*(V(+11)-V(-11))
B13 N004 0 V= 1Meg*(V(0)-V(-12))
B14 -13 0 V= 1Meg*(V(+13)-V(-13))
B15 -14 0 V= 1Meg*(V(+14)-V(-14))
B16 N011 0 V= 1Meg*(V(0)-V(-15))
B17 -16 0 V= 1Meg*(V(+16)-V(-16))
B18 -17 0 V= 1Meg*(V(+17)-V(-17))
B19 Vbanda6 0 V= 1Meg*(V(0)-V(-18))
B20 -19 0 V= 1Meg*(V(+19)-V(-19))
B21 -20 0 V= 1Meg*(V(+20)-V(-20))
B22 Vbanda7 0 V= 1Meg*(V(0)-V(-21))
B23 -22 0 V= 1Meg*(V(+22)-V(-22))
B24 -23 0 V= 1Meg*(V(+23)-V(-23))
B25 Vbanda8 0 V= 1Meg*(V(0)-V(-24))
B26 -25 0 V= 1Meg*(V(+25)-V(-25))
B27 -26 0 V= 1Meg*(V(+26)-V(-26))
B28 Vbanda9 0 V= 1Meg*(V(0)-V(-27))
B29 -28 0 V= 1Meg*(V(+28)-V(-28))
B30 -29 0 V= 1Meg*(V(+29)-V(-29))
B31 Vbanda10 0 V= 1Meg*(V(0)-V(-30))
R96 -31 Vbanda1 100k
R97 -31 Vbanda2 100k
R98 -31 Vbanda3 100k
R99 -31 -12 100k
R100 -31 -15 100k
R101 -31 Vbanda6 100k
R102 -31 Vbanda7 100k
R103 -31 Vbanda8 100k
R104 -31 Vbanda9 100k
R105 -31 Vbanda10 100k
B32 Vout 0 V= 1Meg*(V(0)-V(-31))
R106 Vout -31 100k
B33 Vsuma 0 V= 1Meg*(V(0)-V(-32))
R88 Vbanda7 -21 1k
V3 Vin1 0 wavefile=Pistas/Bass.wav
V4 Vin2 0 wavefile="Pistas/EG 2.wav"
V5 N020 0 wavefile="Pistas/Keys 1.wav"
R107 -32 N020 100k
.model D D
.lib C:\Users\AngelOrellana\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10
.wave salida.wav 16 44.1k V(Vout)
;ac dec 100 1 100k
.model MyDiode D(Ron=1m Roff=100Meg Vfwd=0.2)
.wave salida.wav 16 44.1k V(vout)
.backanno
.end
